US05563162
To a mixture of sodium hydride (40% in oil, 24 mg) and N,N-dimethylformamide (1 ml) was added 8-hydroxy-2-methylquinoline (80 mg) in an ice-water bath. The mixture was stirred for 30 minutes at the same temperature and then 2,6-dichlorobenzyl bromide (120 mg) was added therein. The reaction mixture was stirred at ambient temperature for 1 hour. To this mixture was added water (0.5 ml) in an ice-water bath. The precipitates were corrected by vacuum filtration and washed with water (3 ml) to give 8-(2,6-dichlorobenzyloxy)-2-methylquinoline (117 mg) as a white powder.

reactant | sodium hydride | 24 mg | [H-].[Na+]
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | 8-hydroxy-2-methylquinoline | 80 mg | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | 2,6-dichlorobenzyl bromide | 120 mg | ClC1=C(CBr)C(=CC=C1)Cl | C7H5BrCl2
solvent | water | 0.5 ml | O | H2O
product | 8-(2,6-dichlorobenzyloxy)-2-methylquinoline | 117 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1)Cl | C17H13Cl2NO
